US05451347
4-(Chloromethyl)benzyltri-n-butylphosphonium chloride (4).
A mixture of tri-n-butylphosphine (7 g, 34.6 mmol, 1 eq.) in toluene (50 mL) was added dropwise to a mixture of α,α'-dichloro-p-xylene (12.1 g, 69.2 mmol, 2 eq.) in toluene (200 mL) under argon gas. The reaction mixture was allowed to stir for 12 hours at room temperature under argon, after which time the tri-n-butylphosphonium chloride salt had crystallized out of solution. The crystals were filtered and washed several times with toluene and hexanes, then air dried: 1H NMR (CDCl3) δ 0.92 (t, 9H), 1.44 (m, 12H), 2.39 (m, 6H), 4.35-4.40 (d, 2H), 4.56 (s, 2H), 7.36-7.39 (d, 2H), 7.47-7.51 (dd, 2H).

reactant | tri-n-butylphosphine | 34.6 mmol, 7 g, 1 eq. | C(CCC)P(CCCC)CCCC | C12H27P
reactant | α,α'-dichloro-p-xylene | 69.2 mmol, 12.1 g, 2 eq. | ClCC1=CC=C(C=C1)CCl | C8H8Cl2
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(Chloromethyl)benzyltri-n-butylphosphonium chloride | [Cl-].ClCC1=CC=C(C[P+](CCCC)(CCCC)CCCC)C=C1 | InChI=1S/C20H35ClP.ClH/c1-4-7-14-22(15-8-5-2,16-9-6-3)18-20-12-10-19(17-21)11-13-20;/h10-13H,4-9,14-18H2,1-3H3;1H/q+1;/p-1
